US08748613B2
(R)-quinuclidin-3-ol (175 mg, 1.38 mmol) and NaH (60% dispersion in mineral oil, 52.3 mg, 1.31 mmol) were suspended in dry toluene (9 ml) under nitrogen atmosphere and stirred at room temperature for 20 minutes. Ethyl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate (200 mg, 0.73 mmol) was added and the resulting mixture was stirred at 100° C. for 24 hours. NaH (60% dispersion in mineral oil, 8.72 mg, 0.36 mmol) was added again and the mixture was refluxed for others 24 hours. The reaction was cooled and partitioned between water and ethyl ether. The organic layer was collected and dried over Na2SO4, filtered and evaporated. The crude compound was purified by flash chromatography (DCM/MeOH=9/1) to obtain (R)-quinuclidin-3-yl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate (125 mg, 48.3% yield) as a colourless oil.

reactant | (R)-quinuclidin-3-ol | 1.38 mmol, 175 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
reactant | NaH | 1.31 mmol, 52.3 mg | [H-].[Na+]
reactant | Ethyl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate | 0.73 mmol, 200 mg | CC1CN(CC(C1)C)C(C(=O)OCC)C1=CC=CC=C1 | C17H25NO2
reactant | NaH | 0.36 mmol, 8.72 mg | [H-].[Na+]
solvent | toluene | 9 ml | C1(=CC=CC=C1)C | C7H8
product | (R)-quinuclidin-3-yl 2-(3,5-dimethylpiperidin-1-yl)-2-phenylacetate | 125 mg, 48.3% yield | CC1CN(CC(C1)C)C(C(=O)O[C@H]1CN2CCC1CC2)C2=CC=CC=C2 | C22H32N2O2
